Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
transfer; right leg and groin pain
 
Major Surgical or Invasive Procedure:
___ aspiration of R psoas muscle 

 
History of Present Illness:
Ms. ___ is a ___ year old woman who presents as an
outside hospital transfer for concern for right psoas abscess. 

She had a L4-5 discectomy and fusion at ___ on ___ that was
uncomplicated. She was discharged home on ___ after she
was able to ambulate with a walker. On the day of discharge she
had some R groin and thigh discomfort. After discharge she
developed worsening pain. On ___ she developing increasing
pain and difficulty walking. She presented to ___
where a CT pelvis showed a right psoas collection concerning for
abscess or hematoma. 

She reports that she became concerned when it was hard for her 
to
walk even with a walker. She thinks the difficulty walking was
mostly related to pain rather than overt weakness, though it's
hard for her to say. 

She has not had any fevers, chills, nausea, vomiting, diarrhea,
dyspnea, chest pain. Her bilateral leg swelling is stable from
before the procedure. 

EMERGENCY DEPARTMENT COURSE
Initial vital signs were notable for:  
- T98, HR 80, BP 156/73, RR 18, O2 97% RA
 
Exam notable for: 
- GEN: NAD
- CV: RRR
- Abdomen: Obese abdomen, soft, nontender, nondistended
- Extrem: Lower extremities appear symmetrical, 5 cm area of
ecchymosis on the mid anterior thigh, warm and well perfused, 2+
DP and ___ pulses
- Back: Lower back incision site is covered by large gauze that
is partially soaked by blood
- Neuro: AOx3, sensation intact in the lower extremity, FROM
without pain

Labs were notable for:  
- CRP 160.1 

Patient was given:  
- Omeprazole 40mg
- Metoprolol tartrate 12.5mg 
- Morphine sulfate IV
- Piperacillin-Tazobactam 4.5g
- Clindamycin 600mg
- Atorvastatin 10mg
- Oxycodone 5mg 

Consults: 
NSGY: "Patient examined and imaging reviewed with Spine 
Attending
Dr. ___. No indication for acute
neurosurgical intervention. 

Discussed following plan with patient -

Right lower extremity weakness likely secondary to pain. Pain
generator difficult to discern, however, hardware intact without
evident migration. Recommend admission to Medicine for pain
control and ___ aspiration of collection in psoas to rule
out possibility of abscess; or patient may opt for home 
discharge
today and follow up with her spine surgeon at ___ tomorrow
during normal business hours. Discussed likely differential of
psoas collection (abscess vs. post op changes/hematoma) with
patient, and that this may be source of pain but unclear.
Discussed risks and benefits of either option. Patient to 
discuss
disposition with ED physician. 

Neurosurgery to sign off at this time. Thank you for involving 
us
in the care of this patient. Please page with any
neurosurgery-related questions or concerns."

Vital signs prior to transfer: 
- T98.1, HR 82, BP 115/65, RR 16, O2 96% RA

Upon arrival to the floor: She reports feeling comfortable while
at rest. Today is her birthday and she tells me the upside is
that she will always remember this one. 

================= 
REVIEW OF SYSTEMS 
================= 
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
-Hypertension
-Hyperlipidemia 
-Tonsillectomy 
-Right knee surgery after ?meniscus tear
 
Social History:
___
Family History:
- Sister had a spinal fusion as well
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================  
VITALS:  97.7, BP 119 / 63, HR 74, RR18, O2 95 RA
GENERAL: Comfortable appearing woman lying in bed and speaking 
to
me in no distress
HEENT: Pupils equal and reactive, no scleral icterus or
injection, moist mucous membranes 
CARDIAC:  S1/S2 regular with no murmurs, rubs or S3/S4 
LUNGS: Clear bilaterally
BACK:  Dressing over spine on lower back has dried 
serosanguinous
fluid at it's base
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: Trace to 1+ symmetric edema in bilateral lower
extremities
SKIN: No obvious rashes or lesions on limited exam 
NEUROLOGIC: CNII-XII normal. ___ strength in upper extremities
and in LLE. RLE is antigravity but hip flexion against 
resistance
limited by pain. Normal sensation to light touch in lower
extremities. Patellar reflex 2+ in RLE.

DISCHARGE PHYSICAL EXAM 
======================= 
Vitals:
24 HR Data (last updated ___ @ 703)
Temp: 98.2 (Tm 98.4), BP: 130/80 (107-134/63-80), HR: 79 
(61-89),
RR: 16 (___), O2 sat: 96% (93-98), O2 delivery: RA  

GENERAL: Comfortable appearing woman sitting up in bed and
speaking in no distress
HEENT: Pupils equal and reactive, no scleral icterus or
injection, moist mucous membranes 
CARDIAC:  S1/S2 regular with no murmurs, rubs or S3/S4 
LUNGS: Clear bilaterally
BACK:  Dressing over spine on lower back has dried 
serosanguinous
fluid at it's base
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Limited R hip extension and flexion ___ pain. Trace
to 1+ symmetric edema in bilateral lower extremities
SKIN: No obvious rashes or lesions on limited exam 
NEUROLOGIC: CNII-XII normal. ___ strength in upper extremities
and in LLE. RLE is antigravity but hip flexion against 
resistance
limited by pain. Normal sensation to light touch in lower
extremities.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:22AM   GLUCOSE-171* UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-7.4* CHLORIDE-102 TOTAL CO2-24 ANION GAP-11
___ 01:22AM   estGFR-Using this
___ 01:22AM   CALCIUM-9.2 PHOSPHATE-4.3 MAGNESIUM-2.3
___ 01:22AM   CRP-160.1*
___ 01:22AM   LACTATE-1.0 K+-4.6
___ 01:22AM   WBC-6.1 RBC-3.95 HGB-11.4 HCT-35.2 MCV-89 
MCH-28.9 MCHC-32.4 RDW-13.3 RDWSD-43.4
___ 01:22AM   NEUTS-87.9* LYMPHS-9.1* MONOS-2.3* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-5.32 AbsLymp-0.55* AbsMono-0.14* 
AbsEos-0.00* AbsBaso-0.01
___ 01:22AM   PLT COUNT-332
___ 01:22AM   ___ PTT-29.1 ___

MR ___ & W/O CONTRAST ___
IMPRESSION: 
1. Status post anterior and posterior instrumented fusion at 
L4-L5. 
2. Enhancing posterior epidural material at L4 and L5, and 
anterior epidural material at L5, may represent granulation 
tissue, but epidural phlegmon cannot be excluded on the basis of 
MRI.  Anterior epidural material at L4 has signal 
characteristics of a small hematoma, but superimposed infection 
cannot be excluded on the basis of MRI. 
3. The above described material causes severe spinal stenosis at 
L4-L5 with crowding of the intrathecal nerve roots and 
encasement of traversing L5 nerve roots. 
4. Thin nonenhancing fluid collection extending from the L4-L5 
interspinous space into the midline posterior subcutaneous fat 
of the lumbar spine most likely represents a seroma.  
Superimposed infection cannot be excluded on the basis of MRI. 
5. Partially imaged rim enhancing collection in the psoas muscle 
from mid L4 through S1-S2 levels, measuring approximately 2.7 x 
1.8 cm in maximal axial cross-section, most likely an abscess. 
While this imaging appearance may be seen in the setting of a 
chronic, organizing hematoma, this is not likely given the 
timing of surgery 5 days prior to this exam. 
6. Signal abnormalities in the disc and endplates at L2-L3 are 
most likely 
degenerative, as detailed above, including combination ___ 
type 1 and 
___ type 2 discogenic marrow changes in the L2 inferior 
endplate.  No 
evidence for adjacent epidural or anterior paravertebral 
collection to 
indicate infection. 
7. Multilevel degenerative disease, including moderate spinal 
canal stenosis at L2-L3 and moderate to severe spinal canal 
stenosis at L3-L4, as well as advanced neural foraminal 
narrowing at multiple lumbar levels, as detailed above.

CT INTERVENTIONAL PROCE ___
FINDINGS:  
A right psoas collection, likely a hematoma.  Specimens were 
sent for 
microbiology analysis. 
IMPRESSION:  
Successful CT-guided drainage of a right psoas collection.  
Samples were sent for microbiology evaluation. 

 
Brief Hospital Course:
___ woman status post recent L4-L5 discectomy who 
presented with right groin pain and difficulty walking with 
imaging evidence of right psoas collection concerning for 
abscess versus hematoma or postsurgical fluid collection.

# Psoas muscle hematoma 
She presents with several days of right hip pain and difficulty 
ambulating after discectomy. Imaging was concerning for fluid 
collection in the right psoas muscle. She had an ___ guided 
drainage of was consistent with hematoma. She had no signs of 
infection such as fever or leukocytosis. She was briefly on 
antibiotics (Vanco, Zosyn in the emergency department), but 
these were stopped when she arrived to the floor. We touched 
base with her surgeon Dr. ___ stated that postsurgical 
hematoma would not be unexpected. Her pain was controlled with 
oxycodone as needed as well as acetaminophen. At the time of 
discharge, gram stain showed no evidence of infection. 

CHRONIC ISSUES 
============== 
#Hypertension: Held metop tartrate 12.5mg BID given normal BP, 
restarted on discharge. 

#GERD: Continued home omeprazole 40mg BID 

#HLD: Continued home atorvastatin 10mg 

TRANSITIONAL ISSUES:
====================
[ ] CRP elevated to ~170 this admission, likely in setting of 
recent surgery. Consider interval recheck. 
[ ] Please consider decreasing dose of PPI and eventually 
weaning off given long-term risks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

3. Omeprazole 40 mg PO BID 
4. Atorvastatin 10 mg PO QPM 
5. Polyethylene Glycol 17 g PO DAILY 
6. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Metoprolol Tartrate 12.5 mg PO BID  
3.  Omeprazole 40 mg PO BID  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Senna 17.2 mg PO QHS  
7.Outpatient Physical Therapy
___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right psoas muscle hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being involved in your care.

Why you were hospitalized:
==========================
– You were hospitalized because you were having right hip and 
leg pain and were found to have a fluid collection in your psoas 
muscle concerning for blood or infection. 

What happened while you are in the hospital:
============================================
– You had a procedure done to take fluid from this muscle that 
was most consistent with a hematoma or blood consistent likely 
secondary to your surgery.

What to do when you leave the hospital:
=======================================
- Attend all of your follow-up appointments. 
- Take all of your medications as prescribed. 
- If you have persistent pain in your lateral thigh, please 
contact your surgeon.
- For pain, you may take 1000 mg acetaminophen (2 double 
strength Tylenols) every 8 hours. 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___